US07329656B2
4-(bromomethyl)-1-[(4-methylphenyl)sulfinyl]benzene:
A mixture of 4-methyl-1-[(4-methylphenyl)sulfinyl]benzene (1.15 g, 5.00 mmol), N-bromosuccinimide (1.08 g, 6.00 mmol), 2,2′-azobis-(2-methylpropionitrile) (100 mg, 0.600 mmol), and CCl4 (25.0 mL) as solvent was stirred for 5 min at room temperature and then heated to reflux for 12 h. The reaction mixture was cooled to room temperature and filtered and the solvent was removed in vacuo, affording a crude product which was used in the next step without any further purification (1.21 g, 78.1% yield). 1H NMR (CDCl3) δ 7.71-7.57 (m, 2H), 7.57-7.40 (m, 4H), 7.36-7.16 (m, 2H), 4.46 (s, 2H), 2.37 (s, 3H).

reactant | 4-methyl-1-[(4-methylphenyl)sulfinyl]benzene | 5.00 mmol, 1.15 g | CC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C | C14H14OS
reactant | N-bromosuccinimide | 6.00 mmol, 1.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis-(2-methylpropionitrile) | 0.600 mmol, 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 25.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(bromomethyl)-1-[(4-methylphenyl)sulfinyl]benzene | 78.1% yield | BrCC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C | C14H13BrOS
